US06156893
Preparation of (±)-1-BOC-amino-4-(hydroxymethyl)-2-cyclopentene (BOC=tert-butoxycarbonyl)
15 g of crude (±)-1-amino-4-hydroxymethyl-2-cyclopentene hydrochloride (prepared as described in J. Org. Chem. 1981, 46, 3268) were dissolved in a mixture of 150 ml of water and 150 ml of dioxane at room temperature under nitrogen. The solution was adjusted to pH 14 with 1N NaOH, then a diethyl ether solution of tert-butyloxycarbonyl fluoride (BOC-F, 20% excess) was added, and the mixture was stirred for a further 3 h at room temperature (BOC-F prepared as disclosed in Synthesis 1975, 599). The pH was adjusted to 2 with conc. HCl. After distillation of the organic solvents, 50 ml of water were added to the residue, and the mixture was extracted with 3×100 ml of ethyl acetate. The combined organic phases were completely evaporated. The residue was crystallized in a mixture of 110 ml of diisopropyl ether and 80 ml of n-hexane. 11.95 g of title compound were obtained. The yield was 56%.

reactant | (±)-1-amino-4-hydroxymethyl-2-cyclopentene hydrochloride | 15 g | Cl.NC1C=CC(C1)CO
reactant | NaOH | 1N | [OH-].[Na+]
reactant | tert-butyloxycarbonyl fluoride | C(C)(C)(C)OC(=O)F | C5H9FO2
reactant | HCl | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±)-1-BOC-amino-4-(hydroxymethyl)-2-cyclopentene | 11.95 g, yield was 56% | C(=O)(OC(C)(C)C)C1(C=CC(C1)CO)N | C11H19NO3
